US04318731
Synthesis of ethoxymethylene urethane
In 40 ml toluene was dissolved 44.4 g (0.3 mol) of ethyl orthoformate, and while keeping the temperature at 110°-120° C., 18 g (0.2 ml) of urethane and 200 ml of a mixture of sulfuric acid with toluene were dropped thereto spending about 2 hours, during which produced ethanol was distilled out of the reaction vessel. After the dropping had been finished, toluene was removed by distillation. The intended product (9.5 g) was obtained by distillation of the residue; b.p. 72.4° C. (15 mmHg), yield 38.8%.

reactant | ethyl orthoformate | 0.3 mol, 44.4 g | C(OCC)([O-])[O-]
reactant | urethane | 0.2 ml, 18 g | NC(=O)OCC | C3H7NO2
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | ethanol | C(C)O | C2H6O
solvent | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
product | ethoxymethylene urethane | 9.5 g, yield 38.8% | C(C)OC=NC(=O)OCC | C6H11NO3
